Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever and R hip pain
 
Major Surgical or Invasive Procedure:
CT-guided aspiration of R thigh abscess (___)
Bedside surgical debridement of R thigh abscess (___)
Operative debridement of R thigh abscess and bone biopsy of 
femur (___)

 
History of Present Illness:
Ms. ___ is an ___ with a hx ___ body dementia, atrial 
fibrillation (not on AC), T2DM, presenting with recurrent fever 
and hip pain. 

Pt was recently admitted to ___ (___) for sepsis, UTI, 
and proteus bacteremia. She presented from home for confusion 
and hypotension. She was empirically started on cipro (___) for 
pyuria. She was noted to have persistent fever and was broadened 
to vanc/cefepime (___). Blood cultures (___) revealed proteus 
sensitive to cipro and ctx. Blood cultures from ___ grew CoNS 
and GPR (sensitive to vanc) but this was thought to be a 
contaminant. On ___, ___ drainage of R hip was undertaken 
___, significant for bursitis). She was febrile on ___ and 
developed worsening leukocytosis ___. On ___, there was an 
attempt to repeat drainage of R hip but this was unsuccesful. On 
___ pt was noted to develop eosinophilia and was febrile to 102. 
On ___ a PICC was placed and on ___ pt had last recorded temp 
(100.2) at 10PM on ___. She completed vancomycin on ___ and was 
discharged home with services to complete a 2-week course of 
cefepime (due to end ___ for proteus bacteremia).   

Pt presented to the ED this AM after daughter reported a fever 
(100.8) in ___ of ___. Pt was also complaining of R hip pain and 
bl knee pain. In the ED, VS: 100.1 109 116/57 18 98% (Tm in ED 
was 101.8 at 10:45 am). Pt was found to have leukocytosis (1.2) 
and TnT 0.05. UA was negative. CXR showed no pathology. She 
received Acetaminophen 650mg, Imipenem-Cilastatin 500 mg, 
Vancomycin 1g, OxycoDONE 5mg.   
 
On the floor, the patient was in no acute distress, sleeping. 
She was arousable to voice and denied any pain. She was oriented 
to ___, ___ and Obama, she did not know the month or the name 
of the city. She denied the review of systems per below.  
 
Review of systems:  
(+) Per HPI  
(-) Denies Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. No myalgias. No neck pain. No 
photophobia. 
 

 
Past Medical History:
CAD (hx of MI per records) 
Hypertension  
Diabetes Mellitus (a1c 7.2 in ___ 
Hx of PE (___) 
Hyperlipidemia  
Peptic ulcer disease  
Osteoarthritis  
Spinal stenosis  
Blindness  
Hyperparathyroidism  
Obesity  
Atrial fibrillation  

 
Social History:
___
Family History:
CVA, mother died of TB

 
Physical Exam:
ADMISSION EXAM:
Vitals: T: 98.2 (98.4); BP: 110/50 (102-147/43-50) P: 80 (80-96) 
R: 20 O2: 98% RA 68.5 kg  
General: A&O X 1.5, sleeping, NAD  
HEENT: Sclera anicteric, MMM, oropharynx clear, corneal 
membranes opaque  
Neck: supple, JVP not elevated, no LAD  
Lungs: LCTAbl, no w/r/
CV: RRR, normal S1 + S2, ___ systolic murmur at RUSB  
Abdomen: Soft, NTND, +NABS, no HSM  
Ext: WWP. 2+ pulses in DP and radial. R hip stage 2 ulcer 
(2x3cm) with faint erythema. Passive range of motion intact in 
the right hip. Area of tenderness and swelling on 
anterior/lateral R upper thigh. Knees warm bilaterally. Small 
effusion on L knee. FROM to passive motion. TTP at knees bl L>R. 
 
Back: Sacral decubitus ulcer (1x1cm), stage ___, probing to 
bone. No discharge. 
Neuro: CNV-XII grossly intact. 
Foley in place with yellow urine  

DISCHARGE EXAM:
Vitals: 98.8 (99), 116/51 (116-136/51-80), 75 (62-77), 18, 97% 
RA; UOP 350cc since MN; 1300cc over last 24hrs. Intake not 
recorded. 
General: NAD, A+Ox 2
HEENT: Dry MM, NCAT, cornea opaque-bl
Neck: Supple, no JVD or LAD
Chest: LCTA-bl, no w/r/r
Heart: RRR, no w/r/r
Abd: Soft, NT/ND, +NABS
Extremity: RLE: Large wound packed with surgcel dressing (cdi, 
not fully uncovered on AM exam). Grannulation tissue previously 
seen at borders. On previous exam, femoral tendon was visible 
and there was moderate serous drainage with small amount of 
granulation tissue at wound base. Minimal ttp and no erythema in 
surrounding area. Moving all extremities. 2+DP pulses. Sacrum: 
per previous exam: stage 4 decubitus ulcer with no bone showing 
(+ muscle, + tendon) - examined last on ___ 

 
Pertinent Results:
ADMISSION LABS:

___ 10:41AM BLOOD WBC-15.2* RBC-3.39* Hgb-9.8* Hct-31.0* 
MCV-91 MCH-29.0 MCHC-31.7 RDW-13.7 Plt ___
___ 10:41AM BLOOD Neuts-84.0* Lymphs-11.6* Monos-3.1 
Eos-1.0 Baso-0.2
___ 11:12AM BLOOD ___ PTT-28.4 ___
___ 10:41AM BLOOD Gluc-137* BUN-9 Cr-0.6 Na-139 K-4.0 Cl-99 
HCO3-28 
___ 10:41AM BLOOD ALT-19 AST-23 AlkPhos-87 TotBili-0.5
___ 04:35PM BLOOD CK(CPK)-23*
___ 10:41AM BLOOD Albumin-3.0*
___ 06:08AM BLOOD Albumin-2.7* Calcium-10.1 Phos-2.4* 
Mg-2.0
___ 11:12AM BLOOD Lactate-1.5
___ 11:50AM URINE Color-Yellow Appear-Hazy Sp ___
___ 11:50AM URINE Blood-SM  Nitrite-NEG Protein-100 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 11:50AM URINE RBC-1 WBC-6* Bact-NONE Yeast-NONE Epi-<1 
TransE-1
___ 11:50AM URINE CastGr-2* CastHy-35* CastCel-5*

OTHER RELEVANT LABS:

___ 04:10PM BLOOD ESR-128*
___ 04:35PM BLOOD CK(CPK)-23*
___ 06:08AM BLOOD ALT-15 AST-21 LDH-175 CK-221* AlkPhos-77 
TB-0.5
___ 10:41AM BLOOD cTropnT-0.05*
___ 04:35PM BLOOD CK-MB-4 cTropnT-0.05*
___ 06:08AM BLOOD CK-MB-4 cTropnT-0.05*
___ 04:10PM BLOOD CRP-165.0*
___ 05:40AM BLOOD Vanco-16.0
___ 05:55AM BLOOD Vanco-25.3*
___ 07:26AM BLOOD Vanco-19.2
___ 06:29AM BLOOD calTIBC-151* TRF-116*
___ 06:29AM BLOOD Albumin-2.0* Calcium-9.2 Phos-2.9 Mg-1.8 
Iron-31

___ 12:15AM URINE Color-Yellow Appear-Cloudy Sp ___
___ 12:15AM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 12:15AM URINE RBC-1 WBC-<1 Bacteri-FEW Yeast-NONE Epi-0
___ 12:15AM URINE CastGr-3* CastHy-3*

DISCHARGE LABS:
___ 01:15PM BLOOD WBC-7.1 RBC-2.58* Hgb-7.5* Hct-23.7* 
MCV-92 MCH-29.2 MCHC-31.8 RDW-15.1 Plt ___
___ 06:30AM BLOOD Glucose-79 UreaN-9 Creat-0.5 Na-138 K-3.8 
Cl-103 HCO3-28 AnGap-11
___ 06:30AM BLOOD Calcium-9.0 Phos-2.0* Mg-1.6

MICRO:

BCX ___: NEGATIVE
.
UCX ___: NEGATIVE
.
___ 1:55 pm SWAB      Source: sacral decub. 
GRAM STAIN (Final ___: 
1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES. 
NO MICROORGANISMS SEEN. 
WOUND CULTURE (Final ___: This culture contains mixed 
bacterial types (>=3) so an abbreviated workup is performed. Any 
growth of P.aeruginosa, S.aureus and beta hemolytic streptococci 
will be reported. IF THESE BACTERIA ARE NOT REPORTED BELOW, THEY 
ARE NOT PRESENT in this culture.. 
ANAEROBIC CULTURE (Final ___: UNABLE TO R/O OTHER 
PATHOGENS DUE TO OVERGROWTH OF SWARMING PROTEUS SPP.. 
.
___ 12:35 pm ABSCESS      HIP/THIGH. 
GRAM STAIN (Final ___: 
2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES. 
1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
WOUND CULTURE (Final ___: 
PROTEUS MIRABILIS.    RARE GROWTH. 
SENSITIVITIES: MIC expressed in MCG/ML
_________________________________________________________
                             PROTEUS MIRABILIS
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 
.
Time Taken Not Noted     Log-In Date/Time: ___ 4:29 pm
TISSUE     Site: HIP      TROCANTERIC BONE BIOPSY RIGHT HIP. 
GRAM STAIN (Final ___: 2+   ___ per 1000X FIELD):   
POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN. 
TISSUE (Final ___: PROTEUS MIRABILIS.    RARE GROWTH. 
IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # ___ 
___. ANAEROBIC CULTURE (Final ___:    NO ANAEROBES 
ISOLATED. 
.
Time Taken Not Noted     Log-In Date/Time: ___ 4:29 pm
TISSUE     Site: HIP      SEPTIC BURSA RIGHT HIP. 
GRAM STAIN (Final ___: 2+   ___ per 1000X FIELD):   
POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN. 
TISSUE (Final ___: PROTEUS MIRABILIS.    RARE GROWTH. 
IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # ___ 
___. ANAEROBIC CULTURE (Final ___:    NO ANAEROBES 
ISOLATED. 
.
IMAGING:

CXR ___:
IMPRESSION: 
No acute cardiopulmonary abnormality. 
.
US RLE ___:
FINDINGS:  Images of the right greater trochanteric region again 
show 
small-to-moderate-sized fluid in the greater trochanteric bursa 
region which tracks along the lateral aspect of the proximal 
femur.  This is grossly unchanged when compared to the prior 
study.  No additional fluid collections are identified.  
Underlying bone is unremarkable. 
IMPRESSION:  Grossly stable mild-to-moderate amount of fluid in 
the right 
greater trochanteric bursa, representing bursitis. 
.
MRI PELVIS ___:
FINDINGS: 
The single provided axial T1-weighted sequence demonstrates no 
gross evidence of abnormal marrow edema within the pelvis.  
There is diffuse muscular atrophy.  There is skin thickening 
again noted posterior to the coccyx similar to the prior CT 
examination.  There is no evidence of a collection adjacent to 
the coccyx however.  
There has been interval increase in size of a partially imaged 
crescentic T1 hypointense subcutaneous right gluteal collection 
measuring approximately 6.0 cm TRV x 4.4 cm AP which previously 
measured approximately 5.3 cm TRV x 3.6 cm AP. 
IMPRESSION: 
1.  No gross evidence of osteomyelitis on this suboptimal MR 
examination of the pelvis. 
2.  Interval increase in size of a partially imaged right 
gluteal subcutaneous fluid collection since ___.  
Followup MR examination of the pelvis with sedation and / or CT 
examination would provide further imaging evaluation if 
clinically warranted. 
.
CXR ___:
Heart and mediastinum are normal.  The lung fields are clear.  
No evidence of pneumonia is present.  Chest clear. 
.
KNEE XR ___:
RIGHT KNEE:  Degenerative changes are seen in all areas of the 
knee with 
osteophyte formation and narrowing of the joint space.  No 
significant 
effusions are present on this side. 
LEFT KNEE: AP views of the left knee is somewhat limited.  
Marked degenerative changes with almost complete loss of the 
joint space are present in the medial compartment and marked 
narrowing in the lateral compartment is also present. In all 
other areas degenerative changes are present.  No effusion is 
identified.  No areas of erosion are seen. 
IMPRESSION:  Severe degenerative changes.  No evidence of 
osteomyelitis. 
.
RLE US ___:
FINDINGS: 
In the skin overlying the right hip, there is a large 
superficial skin 
ulceration with purulent material draining from it.  
Just deep to this ulcer, there is a large fluid collection that 
appears 
densely packed with echogenic mobile debris.  Its margins are 
difficult to delineate with the ultrasound probe that is 
available.  At the periphery of this fluid collection there is 
an anechoic fluid collection, which may correspond to the bursa. 
  
IMPRESSION: 
The findings are most compatible with an abscess deep to a skin 
ulcer in the right buttock region.  The extent of this fluid 
collection should be better characterized with cross sectional 
imaging, after which, aspiration can be performed.   
.
CT-GUIDED ABSCESS DRAINAGE ___:
CT FINDINGS: 
Patient is known with a large superficial skin ulceration 
overlying the right hip.  Underneath this ulceration there are 
two linear collections 
communicating between them and going to that ulcer; the more 
superficial one contains a fat-fluid level and measures 11.5 x 
2.4 cm; the deepest one measures 13 x 2.4 cm, the collection is 
in the subcutaneous fat and goes up to the gluteus muscle.  
There is also a small collection in the anterior portion of the 
right maximus gluteus muscle (series 3, image 38) measuring 17 x 
27 mm. The greater trochanter lies just beneath the collection.  
There is minimal irregularity of the cortex but which is similar 
to the other side.  There is no significant sign of 
osteomyelitis. 
There is significant degenerative change of the spine with 
anterolisthesis of L4 over L5 measuring 7 mm. 
Multiple gallstones are seen without sign of cholecystitis.  
Small and large bowel of the pelvis are unremarkable.  A Foley 
catheter is in the bladder. The uterus is unremarkable.  There 
is a rectal and uterine prolapse. 
PROCEDURE: 
It was decided to aspirate and drain the more superficial 
collection which should be in continuity with the deepest one. 
The procedure risks and benefits and alternatives were discussed 
with the 
patient and written informed consent was obtained.  A 
preprocedure timeout was performed, discussing the planned 
procedure, confirming the patient's identity with three 
identifiers and reviewing a checklist per ___ protocol. 
The patient was placed on left lateral decubitus on the CT table 
to access the subcutaneous right hip collection.  Under CT 
guidance, an entrance site was selected and the skin was prepped 
and draped in the usual sterile fashion.  5 cc of lidocaine 1% 
was instilled for local anesthesia.  A 5 ___ ___ catheter 
needle was first inserted into the collection where 30 cc of pus 
was removed and sent to microbiology.  Then by a more anterior 
approach with an 18 gauge ___ needle, ___ wire was put 
into the collection and 6 ___ catheter was then inserted. 
Deep sedation was provided by the anesthesia, please refer to 
their note for further detail.  There was no complication after 
the procedure. 
IMPRESSION: 
CT-guided placement of a 6 ___ catheter inside the soft 
tissue abcess 
overlyng the right hip.  Pus was removed from the collection and 
sent to 
microbiology. 
.
PATHOLOGY OF NECROTIC R HIP TISSUE ___: Skin with ulceration 
and gangrenous necrosis of dermal and subcutaneous soft tissues.
.
CXR ___:
New right subclavian line ends in the mid SVC.  No pneumothorax, 
pleural 
effusion or mediastinal widening.  Mild leftward mediastinal 
shift 
unexplained, since both lungs are well expanded and clear and 
there is no 
pneumothorax or effusion on the right.  Heart size normal. The 
study and the report were reviewed by the staff radiologist. 
.
CXR ___:
FINDINGS:  In comparison with study of ___, there is little 
interval change. Specifically, there is no evidence of pneumonia 
following central line removal. There are low lung volumes, but 
no evidence of acute pneumonia or vascular congestion. 
 
Brief Hospital Course:
Ms. ___ is an ___ with a hx ___ body dementia, AF (not 
on AC), T2DM, who presented with recurrent fevers and R hip 
pain/swelling. She was found to have a R thigh abscess/infected 
bursitis and osteomyelitis of the R femur.  

# R thigh abscess, infected bursitis, osteomyelitis ___ proteus 
Patient developed a right thigh abscess in the setting of a 
large pressure ulcer on the lateral right thigh. Abscess was 
likely present during prior admission (vs. superinfected sp 
bursa bx done on prior admission). Initially, fevers were 
attributed to sacral decubitus ulcer, and ACS was consulted to 
perform a bed-side debridement. Debridement on ___ revealed 
a clean-based sacral ulcer, which did not probe to bone. Given 
this, patient was scheduled to undergo US-guided biopsy of R 
thigh (swollen area on upper right thigh which was previously 
found to contain sterile bursitis). Repeat U/S was concerning 
for possible abscess. Pt underwent CT-guided aspiration of R 
thigh abscess under anesthesia (on ___ and surgical bedside 
debridement of R thigh abscess (on ___. She also underwent 
operative debridement and bone biopsy (on ___. She was treated 
with flagyl (___) and Vancomycin/Cefepime (___). She 
was evaluated by infectious disease and, after tissue culture 
from bone showed proteus growth, she was transitioned to PO 
monotherapy with Ciprofloxacin 500mg PO bid (day 1 = ___ with 
a plan to continue treatment until ___. Nutritional status 
remained tenuous and pt's diet was liberalized. Patient was 
evaluated by S+S, who recommedned ground dysphagia diet until 
re-assessment at a time when pt was able to obtain her dentures. 
Calorie counts were inconsistent but, with family's 
encouragement, pt was able to eat large meals. She was 
discharged with follow-up at Surgery clinic for further 
management of the R thigh wound. 
 
# Sacral Decubitus Ulcer
Pt has a Stage IV sacral ulcer. As above, pt underwent 
debridement by ACS on ___. Wound care nursing was consulted and 
recommended instructions for care of the ulcer on discharge.  

# Chronic Normocytic Anemia: 
HCT is slightly below baseline (30s to low ___. There were no 
signs of active bleeding. 
  
# Dementia:
Pt was A+Ox2.5 but intermittently not responsive during 
interview. She was more readily responsive when family was at 
bedside. Mental status was at baseline per family. We continued 
Quetiapine and Oxcarbamazepine during this admission. 

# Well-controlled DM without complications: 
FSG was well-controlled during admission. Continued pt's home 
Lantus and HISS.   

# Atrial fibrillation: 
CHADS score is ___ (pt has hx of CVA). She has not been 
anticoagulation as it is currently thought that afib has 
resolved. Digoxin and ASA were continued.

# Hypercholesterolemia: Continued atorvastatin 10mg po qd  

# CAD: Continued ASA 81 mg daily  

# GERD: Continued omeprazole 40mg po qd

TRANSITIONAL ISSUES:
# CODE: Full Code
# CONTACT: ___ (HCP): ___.  
- Please ensure follow-up with ___ ID department
- Please ensure follow-up with Surgery Department at ___
- Please re-check HCT and consider further evaluation of chronic 
anemia
- Please continue wound care of sacral ulcer of the R thigh 
wound as per Page 3
- Please re-assess Speech+Swallow function once patient is able 
to obtain dentures with the goal of liberalizing diet further: 
Please follow up 
- Please follow up weekly transferrin and albumin 
- Please continue to optimize nutritional status. If patient is 
unable to have adequate intake, supplemental nutrition may need 
to be reconsidered. This is essential for pt's wound healing. 
- Please trend calorie counts
- Please note: Patient discharged with Foley in place, given 
incontinence and Stage IV sacral and thight ulcers. If/when 
wound vancs placed, please DC Foley. Please change current Foley 
regularly. 

- RECOMMENDED LABORATORY MONITORING: Please check weekly 
(starting ___: CBC with differential Chem 7, BUN/Cr, 
AST/ALT, Alk Phos, Total bili, ESR/CRP. All laboratory results 
should be faxed to the ___ R.N.s at 
___. All questions regarding outpatient parenteral 
antibiotics should be directed to the ___ R.N.s 
at ___ or to the on-call ID fellow when the clinic is 
closed. 

PLEASE NOTE RECOMMENDATIONS AT TIME OF DISCHARGE:

Per ___ Wound Care:
- Pt should remain on a low air loss mattress since she has 
limited turning surfaces and currently favoring her left side. 
- Monitor left side bony prominences closely for changes. 
- Continue with aquacel ag sheets ( x 2 ) into wound then cover 
with sofsorb right trochanter wound x 1 week. 
- If wound bed is <20 % slough at that time, begin wound VAC 
(NPWT) to both coccyx and trochanter.
- Coccyx site is < 20 % slough currently. Continue with aquacel 
ag
rope daily x 1 week.
- The trochanter wound will need nonadherent layer (Adaptic) 
over
the tendon and then white foam to protect the exposed tendon 
from
damage. Black foam can be placed over both. 
- The coccyx site can be just black foam and connected to
trochanter with y tubing connector.
- Nutritional status will require close monitoring as pt has a 
large wound that
will require optimum nutrition to heal. 

Per ___ Speech Pathology Team:
Functional Oral Intake Scale (FOIS) rating: ___.
Recommendations:
- PO diet: ground solids and thin liquids.
- PO meds crushed in applesauce.
- 1:1 Supervision and assistance for feeding.
- Aspiration precautions and recommendations for swallow safety:
(a) Feed only when awake, alert, attentive. (b)Make sure R 
hearing aid is in place during mealtimes. (c) Feed pt small 
bites and small sips, 1 bite/sip at a time. (d) Alternate bite 
of food with sip of liquid. (e) Feed when fully upright. (f) 
Announce what food you are feeding the pt (e.g. "Here's a bite 
of pancake").
- TID Oral Care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO DAILY 
4. Digoxin 0.125 mg PO DAILY 
5. Docusate Sodium 100 mg PO DAILY 
6. Glargine 2 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Omeprazole 40 mg PO DAILY 
8. Oxcarbazepine 150 mg PO BID 
9. OxycoDONE (Immediate Release)  2.5 mg PO Q8H:PRN pain 
10. Multivitamins 1 TAB PO DAILY 
11. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
12. CefePIME 2 g IV Q12H 
13. Quetiapine Fumarate 12.5 mg PO BID 
14. Quetiapine Fumarate 12.5 mg PO DAILY:PRN agitation 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO DAILY 
4. Digoxin 0.125 mg PO DAILY 
5. Docusate Sodium 100 mg PO DAILY 
6. Glargine 2 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Oxcarbazepine 150 mg PO BID 
10. OxycoDONE (Immediate Release)  2.5-5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours Disp 
#*20 Tablet Refills:*0
11. Quetiapine Fumarate 12.5 mg PO BID 
12. Ciprofloxacin HCl 500 mg PO Q12H 
to be continued until ___ (tentatively, pending 
re-evaluation by ___ Infectious Disease) 
13. Quetiapine Fumarate 12.5 mg PO DAILY:PRN agitation 
14. Heparin 5000 UNIT SC TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary: RLE Abscess and Osteomyelitis of the Femur
Secondary: Dementia, Atrial Fibrillation

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to participate in your care at ___. You were 
admitted for right leg pain and fever. You were found to have an 
infected abscess in your right thigh and an infection of the 
bone in your right leg. You underwent surgical drainage and 
received antibiotics. Your symptoms improved and you are being 
discharged with a course of antibiotics and instructions for 
wound care. Please follow up with Infectious Disease secialists 
at ___ and feel free to call with any questions. 

Best Regards,
Your ___ Medicine Team 
 
Followup Instructions:
___